US05654316
N-(4-Chlorophenyl)-beta-(3,4-Dichlorophenyl)-N-methyl-4-oxo-1-piperidine pentanamide
3,4-Dichloro-beta-(2-bromoethyl)-N-methyl-N-(4-chlorophenyl)benzene propanamide (4.6 g) in DMF (60 mL) was treated with 4-piperidone monohydrate hydrochloride (3.94 g) and K2CO3 (5.3 g). The mixture was stirred vigorously at ambient temperature for 120 hours. The reaction mixture was poured into H2O (100 mL) and extracted with EtOAc (2×100 mL). The organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure to give an oil. Silica gel chromatography eluting with 95:5 (CH2Cl2 :MeOH) gave the title compound (2.25 g). Mass spectrum (FAB): 467.1.

reactant | 3,4-Dichloro-beta-(2-bromoethyl)-N-methyl-N-(4-chlorophenyl)benzene propanamide | 4.6 g | ClC=1C=C(C=CC1Cl)C(CC(=O)N(C1=CC=C(C=C1)Cl)C)CCBr | C18H17BrCl3NO
reactant | 4-piperidone monohydrate hydrochloride | 3.94 g | Cl.O.N1CCC(CC1)=O
reactant | K2CO3 | 5.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 100 mL | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorophenyl)-beta-(3,4-Dichlorophenyl)-N-methyl-4-oxo-1-piperidine pentanamide | 2.25 g | ClC1=CC=C(C=C1)N(C(CC(CCN1CCC(CC1)=O)C1=CC(=C(C=C1)Cl)Cl)=O)C | C23H25Cl3N2O2
